US08420640B2
A solution of 2-fluoro-5-nitrobenzenamine (0.50 g, 3.2 mmol) and piperazine (0.83 g, 9.6 mmol) in 15 ml NMP was heated at 100° C. for 16 hours. The reaction was quenched with 100 ml water. Red solids were filtered and dried under high vacuum. 5-Nitro-2-(piperazin-1-yl)benzenamine (0.50 g, 70%) was obtained by crystallization in acetyl acetate and hexanes. 1H NMR (500 MHz, DMSO-d6) δ (ppm) 2.23 (s, 1H), 2.86 (m, 8H), 5.26 (s, 2H), 6.98 (d, J=8.7 Hz, 1H), 7.45 (dd, J=8.7, 2.8 Hz, 1H), 7.54 (d, J=8.7 Hz, 1H).

reactant | 2-fluoro-5-nitrobenzenamine | 3.2 mmol, 0.50 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5FN2O2
reactant | piperazine | 9.6 mmol, 0.83 g | N1CCNCC1 | C4H10N2
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | 5-Nitro-2-(piperazin-1-yl)benzenamine | 0.50 g, 70% | [N+](=O)([O-])C=1C=CC(=C(C1)N)N1CCNCC1 | C10H14N4O2
